US07087599B2
A mixture of 4-acetyl-9a-butyl-8-chloro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (54 mg) and pyridine hydrochloride (3.5 g) was heated in an oil bath at 200° C. for one hour. After cooling to room temperature, the mixture was partitioned between EtOAc (50 mL) and water (50 mL). The organic phase was washed with brine (20 mL), dried over MgSO4, filtered, and evaporated under vacuum to an oil (32 mg). The crude product was purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate, developing with 5% MeOH in CH2Cl2. The product band was eluted with 10% MeOH in CH2Cl2, the eluant evaporated under vacuum, and the residue lyophilized from benzene to afford 4-acetyl-9a-butyl-8-chloro-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an amorphous solid.

reactant | 4-acetyl-9a-butyl-8-chloro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 54 mg | C(C)(=O)C=1C(CCC2(CC3=C(C(=CC=C3C12)OC)Cl)CCCC)=O | C20H23ClO3
reactant | pyridine hydrochloride | 3.5 g | Cl.N1=CC=CC=C1
product | 4-acetyl-9a-butyl-8-chloro-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(C)(=O)C=1C(CCC2(CC3=C(C(=CC=C3C12)O)Cl)CCCC)=O | C19H21ClO3
